US06831080B2
Step A: 7-Acetyl-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester
A mixture of 1-(1,2,3,4-tetrahydro-quinolin-7-yl)-ethanone (840 mg, 4.8 mmol) ((Y. Ishihara, T. Tanaka and G. Goto, J. Chem. Soc. Perkins Trans. 3401 (1992)) and di-t-butyl dicarbonate (1.36 g, 6.24 mmol) and DMAP (60 mg) was heated at 85° C. for 30 minutes. Additional di-t-butyl dicarbonate (680 mg, 3.12 mmol) was added and the reaction was complete after 60 min at 85° C. The mixture was evaporated and chromatographed (SiO2, 10% EtOAc in hexane) yielding 1.2 g (91%) of the title compound as a white solid (m.p:125-27° C.).

reactant | 1-(1,2,3,4-tetrahydro-quinolin-7-yl)-ethanone | 4.8 mmol, 840 mg | N1CCCC2=CC=C(C=C12)C(C)=O | C11H13NO
reactant | di-t-butyl dicarbonate | 6.24 mmol, 1.36 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-t-butyl dicarbonate | 3.12 mmol, 680 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 60 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 7-Acetyl-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester | 1.2 g, 91% | C(C)(C)(C)OC(=O)N1CCCC2=CC=C(C=C12)C(C)=O | C16H21NO3
